US05700824
Preparation of 3-(2-chloro-6-fluorophenyl)-5-[3-chloro-4-(2-chloro-4-trifluoromethylbenzyloxy)phenyl]-1-methyl-1H-1,2,4-triazole (Compound No. 273)
To 20 ml of N,N-dimethylformamide are added 3-(2-chloro-6-fluorophenyl)-5-(3-chloro-4-hydroxyphenyl)-1-methyl-1H-1,2,4-triazole (0.70 g) and potassium carbonate (0.31 g) and 2-chloro-4-trifluoromethylbenzyl chloride (0.50 g) is added thereto at room temperature with stirring, which is stirred at 120° C. for 5 hours. On completion of the reaction, the reaction solution is cooled to room temperature, poured into water and extracted with ethyl acetate. The organic layer is washed with water, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The concentrate is purified by silica gel column chromatography to give 0.80 g of desired compound (melting point: 156.0°-159.0° C.).

reactant | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
reactant | 3-(2-chloro-6-fluorophenyl)-5-(3-chloro-4-hydroxyphenyl)-1-methyl-1H-1,2,4-triazole | 0.70 g | ClC1=C(C(=CC=C1)F)C1=NN(C(=N1)C1=CC(=C(C=C1)O)Cl)C | C15H10Cl2FN3O
reactant | potassium carbonate | 0.31 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloro-4-trifluoromethylbenzyl chloride | 0.50 g | ClC1=C(CCl)C=CC(=C1)C(F)(F)F | C8H5Cl2F3
solvent | water | O | H2O
product | 3-(2-chloro-6-fluorophenyl)-5-[3-chloro-4-(2-chloro-4-trifluoromethylbenzyloxy)phenyl]-1-methyl-1H-1,2,4-triazole | 0.80 g | ClC1=C(C(=CC=C1)F)C1=NN(C(=N1)C1=CC(=C(C=C1)OCC1=C(C=C(C=C1)C(F)(F)F)Cl)Cl)C | C23H14Cl3F4N3O
